US05523152
A one liter, three necked flask was equipped with overhead stirrer, nitrogen atmosphere and an addition funnel. The flask was charged with 115 g of 2-(methylamino)ethanol (1.53 mol.) and 500 ml of dichloromethane. The reaction flask was cooled with an ice bath. Next, 100 g of furoyl chloride (0.77 mol.) was slowly added via the addition funnel over 2.5 hours. The dichloromethane was washed with NaCl(aq.). Next, the NaCl(aq.) layer was extracted with dichloromethane and the two dichloromethane layers were combined and dried over MgSO4. The dichloromethane was removed with a rotoevaporator to yield 75 g (44%) of N-(2-hydroxyethyl)-N-methylfuranamide.

reactant | 2-(methylamino)ethanol | 1.53 mol, 115 g | CNCCO | C3H9NO
reactant | furoyl chloride | 0.77 mol, 100 g | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | N-(2-hydroxyethyl)-N-methylfuranamide | 75 g, 44% | OCCN(C(=O)C=1OC=CC1)C | C8H11NO3
